US07732604B2
A mixture of 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline (200 mg, 0.586 mmol), potassium carbonate (243 mg, 1.76 mmol), and (R)-tert-butyl pyrrolidin-3-ylcarbamate (218 mg, 1.17 mmol) in 2-propanol (6.0 mL) was heated in the microwave at 80° C. for 20 minutes. The mixture was allowed to cool and the solids were collected by filtration then purified by flash chromatography using a Horizon purification system eluting with chloroform/ethyl acetate (25-75%) to afford (R)-tert-butyl 1-(3-(quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)pyrrolidin-3-ylcarbamate, (239 mg, 91%).

reactant | 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline | 0.586 mmol, 200 mg | BrC1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C14H9BrN6
reactant | potassium carbonate | 1.76 mmol, 243 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-tert-butyl pyrrolidin-3-ylcarbamate | 1.17 mmol, 218 mg | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
solvent | 2-propanol | 6.0 mL | CC(C)O | C3H8O
product | (R)-tert-butyl 1-(3-(quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)pyrrolidin-3-ylcarbamate | 239 mg, 91% | N1=CC=CC2=CC(=CC=C12)CN1N=NC2=NC=C(N=C21)N2C[C@@H](CC2)NC(OC(C)(C)C)=O | C23H26N8O2
